US07795167B2
A solution of 8.3 g (40 mmol) of 8-bromoquinoline in 100 ml of tetrahydrofuran was cooled to −80° C. and 16 ml of n-butyllithium (2.5 M in hexane, 40 mmol) were subsequently added dropwise. After the addition was complete, the mixture was stirred for a further 15 minutes at −80° C. and 4.96 g (40 mmol) of 2,3,4-trimethylcyclopent-2-enone were then added. The mixture was allowed to come to room temperature and was then refluxed for 30 minutes. After cooling to room temperature, the reaction mixture was admixed with ice water and 10 ml of concentrated hydrochloric acid and stirred for 30 minutes. A dilute aqueous ammonia solution was then added until a pH of 12 had been reached. The aqueous phase was then separated off from the organic phase and the aqueous phase was extracted twice with diethyl ether. The organic phases were combined, dried over magnesium sulfate, filtered and the solvent was distilled off. Distillation at 117-132° C. and 2×10−2 mbar gave 4.02 g (17.1 mmol, 43%) of 2,3,4-trimethyl-1-(8-quinolyl)cyclopentadiene.

reactant | 8-bromoquinoline | 40 mmol, 8.3 g | BrC=1C=CC=C2C=CC=NC12 | C9H6BrN
reactant | n-butyllithium | 40 mmol, 2.5 M, 16 ml | C(CCC)[Li]
reactant | 2,3,4-trimethylcyclopent-2-enone | 40 mmol, 4.96 g | CC=1C(CC(C1C)C)=O | C8H12O
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2,3,4-trimethyl-1-(8-quinolyl)cyclopentadiene | 17.1 mmol, 4.02 g, 43% | CC1=C(CC(=C1C)C)C=1C=CC=C2C=CC=NC12 | C17H17N
